US06951881B2
Preparation of 2-(6-Chloro-1,2,3,9-tetrahydro-4H-carbazol-4-ylidene)hydrazine-carboximidamide
A suspension of 6-chloro-4-oxo-1,2,3,4-tetrahydrocarbazole (21.9 mg, 0.1 mmol) in isopropanol and concentrated HCl (50 μL) is treated with aminoguanidine bicarbonate (20.4 μg, 0.15 mmol), heated at 80° C. for 4 h, cooled to room temperature and concentrated in vacuo. The resultant residue is purified by HPLC to give the title compound, 15.8 mg (49% yield), identified by mass spectral and HPLC analyses, (M+H) 276; retention time 3.72 min.

reactant | 6-chloro-4-oxo-1,2,3,4-tetrahydrocarbazole | 0.1 mmol, 21.9 mg | ClC=1C=C2C=3C(CCCC3NC2=CC1)=O | C12H10ClNO
reactant | aminoguanidine bicarbonate | 0.15 mmol, 20.4 μg | C(O)(O)=O.NNC(=N)N
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | HCl | 50 μL | Cl | ClH
product | 2-(6-Chloro-1,2,3,9-tetrahydro-4H-carbazol-4-ylidene)hydrazine-carboximidamide | 49% yield | ClC=1C=C2C=3C(CCCC3NC2=CC1)=NNC(N)=N | C13H14ClN5
